US04994452
To a suspension of 1,3,9,10,11,12-hexahydro-3-methyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.82 g) in dry tetrahydrofuran (150 ml) was added potassium tert-butoxide (2.42 g), with stirring. After 20 mins, bromoethane (5.37 ml) was added, and the reaction mixture was refluxed overnight. The reaction mixture was concentrated, diluted with saturated potassium carbonate solution, and extracted with ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate, concentrated, and the residue was adhered to silica and flash chromatographed (30% ethyl acetate/hexane). The appropriate fractions were concentrated. Trituration of the residue with diethyl ether/pentane (1/1) gave 4.51 g (85%) of 1-ethyl-3-methyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one.

reactant | 1,3,9,10,11,12-hexahydro-3-methyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.82 g | CC1OC2=C3C(NC1=O)=C1CCCCC1=NC3=CC=C2 | C16H16N2O2
reactant | potassium tert-butoxide | 2.42 g | CC(C)([O-])C.[K+]
reactant | bromoethane | 5.37 ml | BrCC | C2H5Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-ethyl-3-methyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.51 g, 85% | C(C)N1C(C(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C)=O | C18H20N2O2
